US04046772
To a solution of 0.396 g. of 4-acetoxy-8-chloro-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide in 10 ml. of methanol are added two drops of concentrated sulfuric acid, and the mixture was refluxed for 5 minutes, followed by evaporation of methanol. The residue is neutralized with saturated aqueous sodium bicarbonate solution and the precipitated crystals are collected by filtration, washed with water and dried to obtain 8-chloro-4-methoxy-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide as crystals. Recrystallization from a mixture of chloroform and methanol yields colorless prisms (1/3 hydrate) melting at 264° to 267° C.

reactant | 4-acetoxy-8-chloro-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide | C(C)(=O)OC1C=2N(C3=C(C(=N1)C1=CC=CC=C1)C=C(C=C3)Cl)N=C(N2)C(=O)N | C19H14ClN5O3
catalyst | sulfuric acid | two drops | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | 8-chloro-4-methoxy-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide | ClC=1C=CC2=C(C(=NC(C=3N2N=C(N3)C(=O)N)OC)C3=CC=CC=C3)C1 | C18H14ClN5O2
